US06043365
To a -78° C. solution of 4(R)-phenyl-2-oxazolidinone (340 g, 2.08 mol) in THF (8000 mL), is added n-BuLi (2.5 M, 920 mL, 1.1 eq). The reaction mixture is stirred for 20 minutes and 2-fluorobenzeneacetyl chloride (358 g, 2.08 mol) is added. After 2 hours the reaction mixture is quenched with saturated NH4Cl solution (1×1000 mL). The organic layer is separated, washed with H2O (1×1000 mL), saturated NaCl solution (2×1000 mL) and then concentrated in vacuo. This procedure yields 3-[(2-fluorophenyl)-acetyl]-4(R)-phenyl-2-oxazolidinone.

reactant | 4(R)-phenyl-2-oxazolidinone | 2.08 mol, 340 g | C1(=CC=CC=C1)[C@H]1NC(OC1)=O | C9H9NO2
reactant | n-BuLi | 2.5 M, 920 mL, 1.1 eq | [Li]CCCC
reactant | 2-fluorobenzeneacetyl chloride | 2.08 mol, 358 g | FC1=C(C=CC=C1)CC(=O)Cl | C8H6ClFO
solvent | THF | 8000 mL | C1CCOC1 | C4H8O
product | 3-[(2-fluorophenyl)-acetyl]-4(R)-phenyl-2-oxazolidinone | FC1=C(C=CC=C1)CC(=O)N1C(OC[C@H]1C1=CC=CC=C1)=O | C17H14FNO3
